US04950763
Preparation of cyclohexyl phenyl ketone
A mixture of 11.5 g/h of benzoic acid, 36 g/h of cyclohexanecarboxylic acid and 13 g/h of water was evaporated in an evaporator and passed, together with 10 l/h of nitrogen, at 450° C., over 100 ml of a catalyst which contained 2% by weight of potassium oxide, the remainder being anatase. The reaction gases were then cooled and were collected in a receiver. From the discharged two-phase mixture, the organic phase was analyzed by gas chromatography. The conversion of benzoic acid was 98%. The selectivity with respect to cyclohexyl phenyl ketone was 60%.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | cyclohexanecarboxylic acid | C1(CCCCC1)C(=O)O | C7H12O2
solvent | water | O | H2O
product | cyclohexyl phenyl ketone | C1(=CC=CC=C1)C(=O)C1CCCCC1 | C13H16O
